### PR TITLE
feat(ClassicalMechanics): prove the velocity decomposition v = V + ω × r

### PR DESCRIPTION
**Pull request by giuseppesorge**
This PR proves the **Landau–Lifshitz velocity decomposition** `v = V + ω × r` (§31) — the velocity of any material point of a rigid body in motion splits into the centre-of-mass velocity `V` and a rotational part. It is the kinematic input to König's kinetic-energy theorem (#893) and builds on the velocity field `velocity` and the angular velocity tensor `Ω`.

### `Physlib/ClassicalMechanics/RigidBody/AngularVelocity.lean`
- `angularVelocityTensor_mul_orientation` — `Ṙ = Ω R`, recovering the orientation's derivative from `Ω = Ṙ Rᵀ` via `Rᵀ R = 1`;
- `velocity_eq_deriv_orientation` — `v = Ṙ (y − c) + V`, the componentwise decomposition (rate of change of the orientation acting on the body-frame position, plus the centre-of-mass velocity);
- `velocity_eq_angularVelocity` — `v = V + ω × r` in three dimensions, with `r` the position relative to the centre of mass (`r = displacement − comTrajectory`), via `[ω]ₓ = Ω` and `[ω]ₓ *ᵥ r = ω × r`.

### `Physlib/SpaceAndTime/Time/MatrixDerivatives.lean`
- `Time.deriv_matrix_apply` — the time derivative commutes with taking a matrix entry, `∂ₜ (fun s => A s i j) t = (∂ₜ A t) i j`, via `Matrix.entryLinearMap` (mirrors the sibling `deriv_matrix_transpose`). The general lemma needed to read the derivative of the orientation path off entrywise.

All four declarations reduce to `[propext, Classical.choice, Quot.sound]`.

The next step is König's energy `T = ½M|V|² + ½ω·Iω`, obtained by integrating `½|v|²` over the body.

Toward #893.

### CODE REVIEW

File: Physlib/ClassicalMechanics/RigidBody/AngularVelocity.lean [hunk 1]
```diff
@@ -109,4 +109,68 @@ lemma angularVelocity_of_orientation_const (M : RigidBodyMotion 3)
...
+  rw [hmv, Time.deriv_space hX t i, ← centerOfMassVelocity_eq]
+
+/-- The Landau–Lifshitz velocity decomposition `v = V + ω × r` for a rigid body in three
+dimensions: the velocity of a body point is the centre-of-mass velocity plus the cross product of
+the angular velocity with the point's position relative to the centre of mass. -/
+theorem velocity_eq_angularVelocity (M : RigidBodyMotion 3) (y : Space 3) (t : Time) (i : Fin 3)
+    (hR : Differentiable ℝ (fun s => (M.orientation s).1))
+    (hX : Differentiable ℝ M.comTrajectory) :
+    M.velocity y t i
+      = M.centerOfMassVelocity t i
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/RigidBody/AngularVelocity.lean]:
```suggestion
    M.velocity y t i = M.centerOfMassVelocity t i
```

File: Physlib/ClassicalMechanics/RigidBody/AngularVelocity.lean [hunk 2]
```diff
@@ -109,4 +109,68 @@ lemma angularVelocity_of_orientation_const (M : RigidBodyMotion 3)
...
+        (y j - M.centerOfMass j) ((hentry i j) t))]
+  simp only [Time.deriv_matrix_apply (fun s => (M.orientation s).1) t (hR t)]
+  rw [hmv, Time.deriv_space hX t i, ← centerOfMassVelocity_eq]
+
+/-- The Landau–Lifshitz velocity decomposition `v = V + ω × r` for a rigid body in three
+dimensions: the velocity of a body point is the centre-of-mass velocity plus the cross product of
+the angular velocity with the point's position relative to the centre of mass. -/
+theorem velocity_eq_angularVelocity (M : RigidBodyMotion 3) (y : Space 3) (t : Time) (i : Fin 3)
+    (hR : Differentiable ℝ (fun s => (M.orientation s).1))
+    (hX : Differentiable ℝ M.comTrajectory) :
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/RigidBody/AngularVelocity.lean]:
```suggestion
    (hR : Differentiable ℝ (fun s => (M.orientation s).1)) (hX : Differentiable ℝ M.comTrajectory) :
```

Comment (jstoobysmith) [reply Physlib/ClassicalMechanics/RigidBody/AngularVelocity.lean]: (Maybe if fits)

File: Physlib/ClassicalMechanics/RigidBody/AngularVelocity.lean [hunk 3]
```diff
@@ -109,4 +109,68 @@ lemma angularVelocity_of_orientation_const (M : RigidBodyMotion 3)
...
+/-- The time derivative of the orientation is `Ṙ = Ω R`, recovering the orientation path from its
+angular velocity tensor `Ω = Ṙ Rᵀ` via the orthogonality `Rᵀ R = 1`. -/
+lemma angularVelocityTensor_mul_orientation (M : RigidBodyMotion d) (t : Time) :
+    M.angularVelocityTensor t * (M.orientation t).1 = ∂ₜ (fun s => (M.orientation s).1) t := by
+  rw [angularVelocityTensor_eq, mul_assoc,
+    mul_eq_one_comm.mp (M.orientation_mul_transpose t), mul_one]
+
+/-- The velocity of a body point decomposes as `v = Ṙ (y − c) + V`: the rate of change of the
+orientation acting on the body-frame position, plus the centre-of-mass velocity. -/
+lemma velocity_eq_deriv_orientation (M : RigidBodyMotion d) (y : Space d) (t : Time) (i : Fin d)
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/RigidBody/AngularVelocity.lean]: Maybe move to where `velocity` is defined?

**Comment by giuseppesorge** [comment]
Done — both hypotheses now on one line (fits in 100 chars), and the statement's first line combined. On moving velocity_eq_deriv_orientation to Motion.lean: I kept it here because it's the lemma velocity_eq_angularVelocity builds on, and both use the matrix time-derivative machinery (Time.deriv_matrix_apply + the operator-norm instances) set up in this file. velocity_eq_angularVelocity can't live in Motion.lean (it needs the angular velocity ω, and AngularVelocity imports Motion — circular). Moving just velocity_eq_deriv_orientation would split the pair and pull Mathlib.Analysis.Matrix.Normed into the foundational Motion.lean. Happy to move it if you prefer that tradeoff.

**Comment by giuseppesorge** [comment]
-awaiting-author

**Comment by jstoobysmith** [comment]
```quote 
Moving just velocity_eq_deriv_orientation would split the pair and pull Mathlib.Analysis.Matrix.Normed into the foundational Motion.lean.
```
I think we should do this, just because you don't need angular velocity to state this result `Motion.lean` seems the more natural home. 

awaiting-author

**Comment by giuseppesorge** [comment]
Good point — moved velocity_eq_deriv_orientation to Motion.lean (next to velocity). Motion.lean now imports MatrixDerivatives and activates the matrix operator-norm instances for the Ṙ reasoning; velocity_eq_angularVelocity uses it from there.

**Comment by giuseppesorge** [comment]
-awaiting-author

**Review by jstoobysmith — APPROVED** [review]
Looks good - approved.
